US04873253
An inhibitor sample is dissolved in a 0.05 M Tris-hydrochloric acid buffer solution (pH=8.3) to make a total volume of 400 μl. To this solution, 50 μl of a 0.2 mM S-2238 solution is added and the mixture is incubated at a temperature of 37° C. for 5 minutes in a constant temperature bath. Then, 50 μl of a 0.2 unit/ml bovine thrombin solution is added thereto and the absorbance, at 405 nm, of the p-nitroaniline formed per minute is determined at a temperature of 37° C. by using the so-called initial velocity method. Thus, the concentration I50 (μmol) of the inhibitor sample at which the absorbance is one half (i.e., 1/2) of that obtained in the absence of the inhibitor sample, is determined.

reactant | S-2238 | 0.2 mM | C1CCN([C@@H](C1)C(=O)N[C@@H](CCCN=C(N)N)C(=O)NC2=CC=C(C=C2)[N+](=O)[O-])C(=O)[C@@H](CC3=CC=CC=C3)N | C27H36N8O5
solvent | Tris hydrochloric acid | 0.05 M, pH=8.3 | C(C(CO)(CO)N)O.Cl
product | p-nitroaniline | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
